US09079866B2
1-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}cyclopentanecarboxamide
The title compound was prepared using conditions analogous to those used to make Example 6 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 1-(2-bromophenylsulfonyl)cyclopentanecarboxamide. MS (ESI): mass calcd. for C22H21FN4O3S, 440.13; m/z found, 441.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.52 (s, 2H), 7.98 (d, J=7.7, 1H), 7.75 (m, 1H), 7.65 (m, 1H), 7.54 (m, 1H), 7.42 (s, 1H), 7.36-7.34 (m, 2H), 7.28-7.22 (m, 2H), 6.93 (s, 2H), 2.27-2.16 (m, 2H), 2.04-1.91 (m, 2H), 1.57 (s, 2H), 1.49-1.35 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenylsulfonyl)cyclopentanecarboxamide | BrC1=C(C=CC=C1)S(=O)(=O)C1(CCCC1)C(=O)N | C12H14BrNO3S
product | 1-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}cyclopentanecarboxamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C1(CCCC1)C(=O)N)F | C22H21FN4O3S
